US05399693
Sodium 3-bromo-propane-1-sulphonate (2.25 g, 0.01 mole) was added to a solution of piperazine-2-carboxylic acid (1.3 g, 0.01 mole) in aqueous sodium hydroxide (0.9 g NaOH/30 ml H2O). The resulting solution was maintained at 60°-65° for 12 h. The product, 3((±)-2-carboxypiperazin-4-yl)-propane-1-sulphonic acid, was isolated by passage of the reaction mixture through Dowex-AG-1-acetate resin. Evaporation of the column filtrate and aqueous washings and recrystallization of the crude product from a 50% aqueous ethanol solution yielded 3-((±)-2-carboxy-piperazin-4-yl)-propane-1-sulphonic acid (500 mg) as a white crystalline solid, m.p. 190°-191°.

reactant | Sodium 3-bromo-propane-1-sulphonate | 0.01 mole, 2.25 g | BrCCCS(=O)(=O)[O-].[Na+]
reactant | piperazine-2-carboxylic acid | 0.01 mole, 1.3 g | N1C(CNCC1)C(=O)O | C5H10N2O2
solvent | sodium hydroxide | 30 ml, 0.9 g | [OH-].[Na+]
product | 3((±)-2-carboxypiperazin-4-yl)-propane-1-sulphonic acid | C(=O)(O)C1NCCN(C1)CCCS(=O)(=O)O | C8H16N2O5S
